### PR TITLE
[Merged by Bors] - feat(Analysis/Convex/Slope): `StrictAntiOn` and `ConcaveOn` versions of `ConvexOn.strict_mono_of_lt`

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/Slope.lean [hunk 1]
```diff
@@ -275,3 +275,29 @@ theorem ConvexOn.strict_mono_of_lt (hf : ConvexOn 𝕜 s f) {x y : 𝕜} (hx : x
       exact ⟨hxy.le, hu.2⟩
     · rw [openSegment_eq_Ioo (hu2.trans huv)]
       exact ⟨hu2, huv⟩
+
+/-- If `f` is convex on a set `s` in a linearly ordered field, and `f y < f x` for two points
+`x < y` in `s`, then `f` is strictly antitone on `s ∩ (∞, x]`. -/
+theorem ConvexOn.strict_anti_of_lt (hf : ConvexOn 𝕜 s f) {x y : 𝕜} (hy : y ∈ s) (hxy : x < y)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Slope.lean]: The `_of_lt` change is optional, but the other one isn't. `ConvexOn.strict_mono_of_lt` is simply misnamed, and should be updated to match (make sure to add a deprecation). Many of the other things in this file are also misnamed with the same error, but the others can wait for a separate PR.
```suggestion
theorem ConvexOn.strictAntiOn (hf : ConvexOn 𝕜 s f) {x y : 𝕜} (hy : y ∈ s) (hxy : x < y)
```

File: Mathlib/Analysis/Convex/Slope.lean [hunk 2]
```diff
@@ -275,3 +275,29 @@ theorem ConvexOn.strict_mono_of_lt (hf : ConvexOn 𝕜 s f) {x y : 𝕜} (hx : x
...
+    (neg_lt_neg hxy) ((neg_neg y).symm ▸ (neg_neg x).symm ▸ hxy' :)
+  convert StrictMonoOn.comp_strictAntiOn this (strictMonoOn_id (s := s ∩ .Iic x) |>.neg) fun z hz ↦
+    ⟨(neg_neg z |>.symm ▸ hz.left :),
+      (Set.neg_Iic x ▸ Set.neg_mem_neg.mpr hz.right : -z ∈ .Ici (-x))⟩
+  ext
+  simp
+
+/-- If `f` is concave on a set `s` in a linearly ordered field, and `f x < f y` for two points
+`x < y` in `s`, then `f` is strictly monotone on `s ∩ (∞, x]`. -/
+theorem ConcaveOn.strict_mono_of_lt (hf : ConcaveOn 𝕜 s f) {x y : 𝕜} (hy : y ∈ s) (hxy : x < y)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Slope.lean]:
```suggestion
theorem ConcaveOn.strictMonoOn (hf : ConcaveOn 𝕜 s f) {x y : 𝕜} (hy : y ∈ s) (hxy : x < y)
```

File: Mathlib/Analysis/Convex/Slope.lean [hunk 3]
```diff
@@ -275,3 +275,29 @@ theorem ConvexOn.strict_mono_of_lt (hf : ConvexOn 𝕜 s f) {x y : 𝕜} (hx : x
...
+    (hxy' : f x < f y) : StrictMonoOn f (s ∩ .Iic x) := by
+  convert (neg_convexOn_iff.mpr hf |>.strict_anti_of_lt hy hxy <| neg_lt_neg hxy').neg using 1
+  simp
+
+/-- If `f` is concave on a set `s` in a linearly ordered field, and `f y < f x` for two points
+`x < y` in `s`, then `f` is strictly antitone on `s ∩ [y, ∞)`. -/
+theorem ConcaveOn.strict_anti_of_lt (hf : ConcaveOn 𝕜 s f) {x y : 𝕜} (hx : x ∈ s) (hxy : x < y)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Slope.lean]:
```suggestion
theorem ConcaveOn.strictAntiOn (hf : ConcaveOn 𝕜 s f) {x y : 𝕜} (hx : x ∈ s) (hxy : x < y)
```

File: Mathlib/Analysis/Convex/Slope.lean [hunk 4]
```diff
@@ -275,3 +275,29 @@ theorem ConvexOn.strict_mono_of_lt (hf : ConvexOn 𝕜 s f) {x y : 𝕜} (hx : x
...
+`x < y` in `s`, then `f` is strictly antitone on `s ∩ (∞, x]`. -/
+theorem ConvexOn.strict_anti_of_lt (hf : ConvexOn 𝕜 s f) {x y : 𝕜} (hy : y ∈ s) (hxy : x < y)
+    (hxy' : f y < f x) : StrictAntiOn f (s ∩ .Iic x) := by
+  have := (hf.comp_affineMap (-.id ..)).strict_mono_of_lt (neg_neg y |>.symm ▸ hy : - - y ∈ s)
+    (neg_lt_neg hxy) ((neg_neg y).symm ▸ (neg_neg x).symm ▸ hxy' :)
+  convert StrictMonoOn.comp_strictAntiOn this (strictMonoOn_id (s := s ∩ .Iic x) |>.neg) fun z hz ↦
+    ⟨(neg_neg z |>.symm ▸ hz.left :),
+      (Set.neg_Iic x ▸ Set.neg_mem_neg.mpr hz.right : -z ∈ .Ici (-x))⟩
+  ext
+  simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Slope.lean]: You can get Lean to do more work for you here:

```suggestion
  have := (hf.comp_affineMap (-.id ..)).strict_mono_of_lt (by simpa) (neg_lt_neg hxy) (by simpa)
  simpa [Function.comp_def] using
    this.comp_strictAntiOn strictMonoOn_id.neg fun z (hz : z ∈ s ∩ .Iic x) ↦ by simpa
```

File: Mathlib/Analysis/Convex/Slope.lean [hunk 5]
```diff
@@ -275,3 +275,29 @@ theorem ConvexOn.strict_mono_of_lt (hf : ConvexOn 𝕜 s f) {x y : 𝕜} (hx : x
...
+
+/-- If `f` is concave on a set `s` in a linearly ordered field, and `f x < f y` for two points
+`x < y` in `s`, then `f` is strictly monotone on `s ∩ (∞, x]`. -/
+theorem ConcaveOn.strict_mono_of_lt (hf : ConcaveOn 𝕜 s f) {x y : 𝕜} (hy : y ∈ s) (hxy : x < y)
+    (hxy' : f x < f y) : StrictMonoOn f (s ∩ .Iic x) := by
+  convert (neg_convexOn_iff.mpr hf |>.strict_anti_of_lt hy hxy <| neg_lt_neg hxy').neg using 1
+  simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Slope.lean]: I think this is slightly nicer:

```suggestion
  simpa using (neg_convexOn_iff.mpr hf |>.strict_anti_of_lt hy hxy <| neg_lt_neg hxy').neg
```

File: Mathlib/Analysis/Convex/Slope.lean [hunk 6]
```diff
@@ -275,3 +275,29 @@ theorem ConvexOn.strict_mono_of_lt (hf : ConvexOn 𝕜 s f) {x y : 𝕜} (hx : x
...
+
+/-- If `f` is concave on a set `s` in a linearly ordered field, and `f y < f x` for two points
+`x < y` in `s`, then `f` is strictly antitone on `s ∩ [y, ∞)`. -/
+theorem ConcaveOn.strict_anti_of_lt (hf : ConcaveOn 𝕜 s f) {x y : 𝕜} (hx : x ∈ s) (hxy : x < y)
+    (hxy' : f y < f x) : StrictAntiOn f (s ∩ .Ici y) := by
+  convert (neg_convexOn_iff.mpr hf |>.strict_mono_of_lt hx hxy <| neg_lt_neg hxy').neg using 1
+  simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Slope.lean]:
```suggestion
  simpa using (neg_convexOn_iff.mpr hf |>.strict_mono_of_lt hx hxy <| neg_lt_neg hxy').neg
```
